US06110929
Under a nitrogen atmosphere a mixture of 3-amino-7-methyl-4-quinolinol (3.4 g, 20 mmol) and butyric anhydride (16 mL) were heated at reflux overnight. The reaction mixture was allowed to cool to ambient temperature and then it was poured over ice. The mixture was adjusted to pH 12 with 10% sodium hydroxide and then extracted with dichloromethane. The extract was dried over magnesium sulfate and then concentrated under vacuum. The residue still contained anhydride so it was combined with 10% sodium hydroxide and stirred for 1 hour at ambient temperature. The mixture was extracted with dichloromethane. The extract was dried over magnesium sulfate and then concentrated under vacuum to provide a brown oil. The oil was purified by column chromatography (silica gel eluting with 3:2 ethyl acetate:dichloromethane) to provide 3.1 g of 7-methyl-2-propyloxazolo[4,5-c]quinoline as a light brown oil which solidified on standing, m.p. 65-68° C. Analysis: Calculated for C14H14N2O: % C, 74.31; % H, 6.24; % N, 12.38; Found: % C, 73.69; % H, 6.07; % N, 12.15.

reactant | 3-amino-7-methyl-4-quinolinol | 20 mmol, 3.4 g | NC=1C=NC2=CC(=CC=C2C1O)C | C10H10N2O
reactant | butyric anhydride | 16 mL | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 7-methyl-2-propyloxazolo[4,5-c]quinoline | 3.1 g | CC=1C=CC=2C3=C(C=NC2C1)N=C(O3)CCC | C14H14N2O
